US05055480
2-amino-1,3,4-thiadiazole-5-sulfonamide
This is prepared by hydrolysis of the acetamide 2-acetylamino-1,3,4-thiadiazole-5-sulfonamide (acetazolamide). A slurry of 0.2 mol of acetazolamide in 600 mL of methanol is treated with 60 mL 12N HCl. This mixture is heated with stirring to reflux for 6 hours. Reaction progress is monitored using liquid chromatography. If reaction is not completed after 6 hours, another 30 mL of 12N HCl is added, and the mixture held at reflux for 2 hours. Methanol is then removed under reduced pressure. Product is recovered after raising the pH of the suspension to 7 by addition of NaOH at 0° C.-4° C., followed by filtration. Yield is between 85% and 98% of theoretical with 99% purity. KI =40 nM.

reactant | acetamide 2-acetylamino-1,3,4-thiadiazole-5-sulfonamide | C(C)(=O)NC=1SC(=NN1)S(=O)(=O)N.C(C)(=O)N
reactant | acetazolamide | 0.2 mol | CC(=O)NC1=NN=C(S1)S(=O)(=O)N | C4H6N4O3S2
reactant | HCl | 12N, 60 mL | Cl | ClH
reactant | HCl | 12N, 30 mL | Cl | ClH
solvent | methanol | 600 mL | CO | CH4O
product | 2-amino-1,3,4-thiadiazole-5-sulfonamide | Yield is between 85% and 98% | NC=1SC(=NN1)S(=O)(=O)N | C2H4N4O2S2
